US09145391B2
NaOH (57 g, 1.43 mol) was added to a solution of ethyl [3-(1H-pyrazol-4-yl)phenyl]acetate (110 g, 0.478 mol) in H2O/THF/MeOH (250 mL/250 mL/250 mL). The mixture was stirred at room temperature for 3 hours. The mixture was concentrated in vacuo and the pH was adjusted to 3 to 4 via the addition of 3 M HCl, The solid was collected via filtration and dried to afford [3-(1H-pyrazol-4-yl)phenyl]acetic acid. MS ESI calcd. for C11H11N2O2 [M+H]+ 203. found 203. 1H-NMR (500 MHz, DMSO-d6) δ: 7.94 (s, 2H), 7.41-7.24 (m, 2H), 7.13 (t, J=7.6 Hz, 1H), 6.99 (d, J=7.6 Hz, 1H), 3.13 (s, 2H).

reactant | NaOH | 1.43 mol, 57 g | [OH-].[Na+]
reactant | ethyl [3-(1H-pyrazol-4-yl)phenyl]acetate | 0.478 mol, 110 g | N1N=CC(=C1)C=1C=C(C=CC1)CC(=O)OCC | C13H14N2O2
solvent | H2O THF MeOH | 250 mL | O.C1CCOC1.CO
product | [3-(1H-pyrazol-4-yl)phenyl]acetic acid | N1N=CC(=C1)C=1C=C(C=CC1)CC(=O)O | C11H10N2O2
